US06472153B1
1-(3-Hydroxypropyl)-4-methylquinolinium bromide (3).
A solution of lepidine (0.49 g, 3.43 mmol) and 3-bromo-1-propanol (3.1 ml, 34 mmol) in 3.0 ml of 1,4-dioxane was refluxed for 17 h. The solution was cooled to room temperature and then diluted with 30 ml of ether. The product separated as an oil and the ether layer was discarded. The oil was crystallized from methylene chloride: 367-mg (38%) yield; TLC (5:3:2, n-butanol/water/acetic acid), Rf=0.40; 1H NMR δ 9.39 (1H, d, J=6.0 Hz, aromatic), 8.57 (2H, t, J=9.1 Hz, aromatic), 8.27 (1H, t, J=7.8 Hz, aromatic), 8.05 (2H, m, aromatic), 5.08 (2H, t, J=7.1 Hz, methylene), 4.81 (1H, t, J=4.9 Hz, hydroxyl), 3.51 (2H, m, methylene), 3.01 (3H, s, 4-methyl), 2.11 (2H, m, methylene). Anal. Calcd. For C13H16BrNO 0.3 H2O; C, 54.29; H, 5.82; N, 4.87. Found C, 53.92; H, 5.43; N, 4.67.

reactant | lepidine | 3.43 mmol, 0.49 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | 3-bromo-1-propanol | 34 mmol, 3.1 ml | BrCCCO | C3H7BrO
reactant | n-butanol water acetic acid | C(CCC)O.O.C(C)(=O)O
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1-(3-Hydroxypropyl)-4-methylquinolinium bromide | [Br-].OCCC[N+]1=CC=C(C2=CC=CC=C12)C | InChI=1S/C13H16NO.BrH/c1-11-7-9-14(8-4-10-15)13-6-3-2-5-12(11)13;/h2-3,5-7,9,15H,4,8,10H2,1H3;1H/q+1;/p-1
